US04062955
p-Chlorophenylpropiolic acid (3.3 g) and propiolic acid (7.6 g) in acetic anhydride (80 ml) were refluxed for 12 hr. The solution was concentrated (to 40 ml) and the precipitate which formed on cooling was recrystallised from acetone to give 6-chloro-2,3-naphthalenedicarboxylic anhydride (2.3 g) m.p. 220°.

reactant | p-Chlorophenylpropiolic acid | 3.3 g | ClC1=CC=C(C=C1)C#CC(=O)O | C9H5ClO2
reactant | propiolic acid | 7.6 g | C(C#C)(=O)O | C3H2O2
solvent | acetic anhydride | 80 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 6-chloro-2,3-naphthalenedicarboxylic anhydride | 2.3 g | ClC=1C=C2C=C3C(=CC2=CC1)C(=O)OC3=O | C12H5ClO3
